US08440689B2
C. Ethyl 2-((1R,2S)-2-(tert-butoxycarbonylamino)cyclohexylamino)-4-(1,5-dimethyl-1H-pyrazol-4-yl)-6-methylpyrimidine-5-carboxylate
A solution of ethyl 4-(1,5-dimethyl-1H-pyrazol-4-yl)-6-methyl-2-(methylsulfonyl)pyrimidine-5-carboxylate (0.07 g, 0.207 mmol), tert-butyl (1S,2R)-2-aminocyclohexylcarbamate (0.089 g, 0.414 mmol) and Et3N (0.115 mL, 0.827 mmol) in DMA (3 mL) was heated in a sealed tube at 90° C. for 8 h. The reaction mixture was poured slowly onto ice to yield a pale yellow precipitate, which was isolated by vacuum filtration, washed with water, and dried under vacuum to give the title compound. [M+H] calc'd for C24H36N6O4, 473; found, 473.

reactant | ethyl 4-(1,5-dimethyl-1H-pyrazol-4-yl)-6-methyl-2-(methylsulfonyl)pyrimidine-5-carboxylate | 0.207 mmol, 0.07 g | CN1N=CC(=C1C)C1=NC(=NC(=C1C(=O)OCC)C)S(=O)(=O)C | C14H18N4O4S
reactant | tert-butyl (1S,2R)-2-aminocyclohexylcarbamate | 0.414 mmol, 0.089 g | N[C@H]1[C@H](CCCC1)NC(OC(C)(C)C)=O | C11H22N2O2
reactant | Et3N | 0.827 mmol, 0.115 mL | CCN(CC)CC | C6H15N
solvent | DMA | 3 mL | CC(=O)N(C)C | C4H9NO
product | Ethyl 2-((1R,2S)-2-(tert-butoxycarbonylamino)cyclohexylamino)-4-(1,5-dimethyl-1H-pyrazol-4-yl)-6-methylpyrimidine-5-carboxylate | C(C)(C)(C)OC(=O)N[C@@H]1[C@@H](CCCC1)NC1=NC(=C(C(=N1)C=1C=NN(C1C)C)C(=O)OCC)C | C24H36N6O4
